US04110339
A solution was prepared from 2.71 g. of 1-benzoyl-1,2,2a,3-tetrahydrobenz[cd]indole in 100 ml. of chloroform. A second solution containing 2.1 g. of 85% m-chloroperbenzoic acid in 100 ml. of chloroform was added. The reaction mixture was stirred at ambient temperature for 41/4 hours. TLC of an aliquot of the solution indicated that most of the starting material had been comsumed. The reaction mixture was diluted with water and the organic layer washed with 1N aqueous sodium hydroxide, with water and with saturated aqueous sodium chloride. The organic layer was dried and the solvent removed therefrom by evaporation in vacuo. The resulting residue containing 1-benzoyl-4,5-epoxy-1,2,2a,3,4,5-hexahydrobenz[cd]indole formed in the above reaction was dissolved in chloroform and the chloroform solution filtered through florisil. The chloroform was evaporated from the filtrate and the resulting residue crystallized from a mixture of ether and hexane, yielding 1-benzoyl-4,5-epoxy-1,2,2a,3,4,5-hexahydrobenz[cd]indole melting in the range 103°-115° C. (the above procedure is based upon that of Kornfeld et al., J. Am. Chem. Soc., 78, 3101 (1956))

reactant | 1-benzoyl-1,2,2a,3-tetrahydrobenz[cd]indole | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=CC=CC13)C=CC2 | C18H15NO
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-benzoyl-4,5-epoxy-1,2,2a,3,4,5-hexahydrobenz[cd]indole | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=CC=CC13)C1C(C2)O1 | C18H15NO2
